US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.66 g) and 2-chloro-N,N-dimethylethylamine hydrochloride (0.32 g) as starting materials, 5-[2-(dimethylamino)ethoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.54 g) was obtained. This compound was dissolved in ethyl acetate, and oxalic acid was added. The precipitated solid was subjected to recrystallization from ethyl acetate to give 5-[2-(dimethylamino)ethoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide oxalate ¼ hydrate (93.8 mg).

reactant | N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.66 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.32 g | Cl.ClCCN(C)C
product | 5-[2-(dimethylamino)ethoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.54 g | CN(CCOC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C)C | C33H43N3O2
